US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(2,4,5-trifluoro-phenyl)-acrylonitrile (Compound 30)
2,4,5-Trifluorobenzaldehyde (160 mg) and 3,4-dimethoxybenzyl cyanide (177 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (80 mg, yield: 26%).

reactant | 2,4,5-Trifluorobenzaldehyde | 160 mg | FC1=C(C=O)C=C(C(=C1)F)F | C7H3F3O
reactant | 3,4-dimethoxybenzyl cyanide | 177 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(2,4,5-trifluoro-phenyl)-acrylonitrile | 80 mg, yield: 26% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=C(C=C(C(=C1)F)F)F | C17H12F3NO2
